### PR TITLE
feat: add `BitVec.msb_(add, sub, neg)`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -574,6 +574,61 @@ theorem msb_sshiftRight' {x y: BitVec w} :
...
+  by_cases h₀ : w ≤ 0
+  · simp [h₀, show w = 0 by omega]
+  · simp [h₀, getLsbD_add, show w > 0 by omega]
+
+theorem msb_sub {x y: BitVec w} :
+    (x - y).msb
+      = (x.getMsbD 0 ^^ ((~~~y + 1#w).getMsbD 0 ^^ carry (w - 1 - 0) x (~~~y + 1#w) false)) := by
+    rw [BitVec.sub_eq_add_neg, BitVec.neg_eq_not_add,
+      msb_add]
+    rfl
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
  simp [sub_eq_add_neg, BitVec.neg_eq_not_add, msb_add]
```

This can be shorter. Also, be careful with the indentation. Tactics use two whitespaces, not four as in this example.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -574,6 +574,61 @@ theorem msb_sshiftRight' {x y: BitVec w} :
...
+  simp
+  omega
+
+theorem msb_add {w : Nat} {x y: BitVec w} :
+    (x + y).msb =
+      Bool.xor (getMsbD x 0) (Bool.xor (getMsbD y 0) (carry (w - 1) x y false)) := by
+  simp only [BitVec.msb, BitVec.getMsbD]
+  by_cases h₀ : w ≤ 0
+  · simp [h₀, show w = 0 by omega]
+  · simp [h₀, getLsbD_add, show w > 0 by omega]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
  by_cases h : w ≤ 0
  · simp [h, show w = 0 by omega]
  · simp [h, getLsbD_add, show w > 0 by omega]
```

**Review by tobiasgrosser — APPROVED** [review]
